US09399636B2
Step 3: tert-butyl 4-(2-((2-hydroxyethyl)(methyl)amino)-6-(4-methylpyridin-2-ylamino)pyridin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate
To a mixture of tert-butyl 4-(2-chloro-6-(2-hydroxyethyl(methyl)amino)-4-pyridyl)-5,6-dihydro-2H-pyridine-1-carboxylate (220 mg, 0.60 mmol), 4-methylpyridin-2-amine (71.13 mg, 0.66 mmol), sodium tert-butoxide (86.2 mg, 0.90 mmol), 2-dicyclohexylphosphino-2′,6′-diisopropoxybiphenyl (34.9 mg, 0.075 mmol), and RuPhos palladium(II) phenethylamine chloride (43.6 mg, 0.06 mmol) in 1,4-dioxane (3.0 mL) was capped in a small CEM microwave vial, de-gassed with N2, and heated in microwave at 120° C. for 15 min. It was concentrated onto Celite, purified by column chromatography (ISCO), 12 g column, eluded with 0-5% MeOH/DCM to give 135 mg (51%) of the title compound as a yellow gum. LC-MS: m/z=440 (M+H+).

reactant | tert-butyl 4-(2-chloro-6-(2-hydroxyethyl(methyl)amino)-4-pyridyl)-5,6-dihydro-2H-pyridine-1-carboxylate | 0.60 mmol, 220 mg | ClC1=NC(=CC(=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)N(C)CCO | C18H26ClN3O3
reactant | 4-methylpyridin-2-amine | 0.66 mmol, 71.13 mg | CC1=CC(=NC=C1)N | C6H8N2
reactant | sodium tert-butoxide | 0.90 mmol, 86.2 mg | CC(C)([O-])C.[Na+]
reactant | 2-dicyclohexylphosphino-2′,6′-diisopropoxybiphenyl | 0.075 mmol, 34.9 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(2-((2-hydroxyethyl)(methyl)amino)-6-(4-methylpyridin-2-ylamino)pyridin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 135 mg, 51% | OCCN(C1=NC(=CC(=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)NC1=NC=CC(=C1)C)C | C24H33N5O3
